US07319161B2
According to the invention, an example of the process used for obtaining the butadiene/maleic acid anhydride mixture for the reaction of step (1) comprises the oxidation of n-butene to give butadiene. According to the invention it is possible for this oxidation to be followed by addition of maleic acid anhydride (MA) to the crude butadiene in order to obtain a butadiene/maleic acid anhydride mixture for the reaction of step (1).

reactant | maleic acid anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | butadiene | C=CC=C | C4H6
product | butadiene maleic acid anhydride | C=CC=C.C1(\C=C/C(=O)O1)=O | InChI=1S/C4H2O3.C4H6/c5-3-1-2-4(6)7-3;1-3-4-2/h1-2H;3-4H,1-2H2
